US06964961B2
A. {3-[7-Chloro-thieno[3,2-b]pyridine-2-carbonyl]-3-aza-bicyclo[3.1.0]hex-6-yl}-carbamic acid tert-butyl ester
The title compound was prepared from (3-aza-bicyclo[3.1.0]hex-6-yl)-carbamic acid tert-butyl ester and lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate by a procedure analogous to Example 1B. MS: 394/396 (MH+); HPLC Rf: 5.30 min.; HPLC purity: 72%.

reactant | (3-aza-bicyclo[3.1.0]hex-6-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C2CNCC12)=O | C10H18N2O2
reactant | lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
product | {3-[7-Chloro-thieno[3,2-b]pyridine-2-carbonyl]-3-aza-bicyclo[3.1.0]hex-6-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C2CN(CC12)C(=O)C1=CC2=NC=CC(=C2S1)Cl)=O | C18H20ClN3O3S
